US08278335B2
Step 3. Methyl 1-[(6-bromopyridin-2-yl)methyl]-1H-1,2,3-triazole-4-carboxylate
Methyl propiolate (641 μL, 7.63 mmol) and 2-(azidomethyl)-6-bromopyridine (1.25 g, 5.87 mmol) were combined in t-BuOH (9.0 mL) and water (5.0 mL). A solution of CuSO4.H2O (73 mg, 0.29 mmol) in water (2.0 mL) was added, followed by sodium ascorbate (232 mg, 1.17 mmol) in water (2.0 mL). The reaction was stirred at room temperature for 18 h, during which time it became a yellow suspension. The suspension was diluted with saturated NaHCO3 and extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried (MgSO4), and concentrated to dryness. The crude solid was purified by flash chromatography (40-100% ethyl acetate/hexanes) to afford the title compound as a colorless solid. LRMS (APCI) calc'd for C10H10BrN4O2 [M+H]+: 297, Found: 297.

reactant | Methyl propiolate | 7.63 mmol, 641 μL | C(C#C)(=O)OC | C4H4O2
reactant | 2-(azidomethyl)-6-bromopyridine | 5.87 mmol, 1.25 g | N(=[N+]=[N-])CC1=NC(=CC=C1)Br | C6H5BrN4
reactant | sodium ascorbate | 1.17 mmol, 232 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-BuOH | 9.0 mL | CC(C)(C)O | C4H10O
solvent | water | 5.0 mL | O | H2O
solvent | water | 2.0 mL | O | H2O
solvent | water | 2.0 mL | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | CuSO4.H2O | 0.29 mmol, 73 mg | [O-]S(=O)(=O)[O-].[Cu+2].O
product | Methyl 1-[(6-bromopyridin-2-yl)methyl]-1H-1,2,3-triazole-4-carboxylate | BrC1=CC=CC(=N1)CN1N=NC(=C1)C(=O)OC | C10H9BrN4O2
